US08466282B2
6-methoxy-2-(4-methoxybutylamino)aniline
3-Methoxy-N-(4-methoxybutyl)-2-nitroaniline (230 mg) was dissolved in methanol (30 ml), palladium-carbon (5%, 90 mg) was added, and the mixture was stirred for 2 hr under a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to give the object product (210 mg).

reactant | 3-Methoxy-N-(4-methoxybutyl)-2-nitroaniline | 230 mg | COC=1C(=C(NCCCCOC)C=CC1)[N+](=O)[O-] | C12H18N2O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 90 mg | [C].[Pd]
product | 6-methoxy-2-(4-methoxybutylamino)aniline | 210 mg | COC1=CC=CC(=C1N)NCCCCOC | C12H20N2O2
